US05104885
A mechanically stirred mixture of 6-methoxy-4-methyl-8-nitro-5-[5-(thienyl) pentoxy] quinoline (5.50 g, 0.014 mol), Fe-filings (6 g), Bu2O (15 ml), H2O (50 ml) and HOAc (1.5 ml) was heated at 105°-110° C. for 2.5 h, allowed to cool and filtered. The residue was well washed with Et2O (200 ml) and the filtrate and the washings were combined. The organic layer was separated and the aqueous layer was extracted with Et2O (2×75 ml). The combined organic layers were washed with saturated NaCl solution (2×50 ml), dried (K2CO3), treated with carbon (Darco G-60), and concentrated to a yellow oil which on trituration with pet. ether (20°-40° C., 20 ml), at -20° C., gave 8-amino-6-methoxy-4-methyl-5-[5-(2-thienyl)pentoxy] quinoline as a yellow solid, 4.07 g (80%), m.p. 42°-44° C. This material was used without further purification.

reactant | 6-methoxy-4-methyl-8-nitro-5-[5-(thienyl) pentoxy] quinoline | 0.014 mol, 5.50 g | COC=1C(=C2C(=CC=NC2=C(C1)[N+](=O)[O-])C)OCCCCCC=1SC=CC1 | C20H22N2O4S
reactant | Bu2O | 15 ml | O(CCCC)CCCC | C8H18O
reactant | H2O | 50 ml | O | H2O
catalyst | Fe | [Fe] | Fe
solvent | HOAc | 1.5 ml | CC(=O)O | C2H4O2
product | 8-amino-6-methoxy-4-methyl-5-[5-(2-thienyl)pentoxy] quinoline | NC=1C=C(C(=C2C(=CC=NC12)C)OCCCCCC=1SC=CC1)OC | C20H24N2O2S
